US08487093B2
Step 7: 2-Allyl 1-tert-butyl (2S,4R)-4-{(benzyloxy)[(trichloromethoxy)carbonyl]amino}-pyrrolidine-1,2-dicarboxylate
Diphosgene (0.1 mL, 0.804 mmol) was added slowly to a solution of 2-allyl 1-tert-butyl (2S,4R)-4-[(benzyloxy)amino]pyrrolidine-1,2-dicarboxylate (261 mg, 0.745 mmol) and triethylamine (0.13 mL, 0.933 mmol) in dichloromethane (4 mL) at 0° C. The reaction mixture was stirred at 0° C. for 4 hours then allowed to stand at room temperature overnight. The reaction mixture was chromatographed on silica gel eluted first with hexane then with 4:1 hexane:ethyl acetate to afford the title compound as a clear gum.

reactant | Diphosgene | 0.804 mmol, 0.1 mL | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | 2-allyl 1-tert-butyl (2S,4R)-4-[(benzyloxy)amino]pyrrolidine-1,2-dicarboxylate | 0.745 mmol, 261 mg | C(C1=CC=CC=C1)ON[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OCC=C | C20H28N2O5
reactant | triethylamine | 0.933 mmol, 0.13 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 2-Allyl 1-tert-butyl (2S,4R)-4-{(benzyloxy)[(trichloromethoxy)carbonyl]amino}-pyrrolidine-1,2-dicarboxylate | C(C1=CC=CC=C1)ON([C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OCC=C)C(=O)OC(Cl)(Cl)Cl | C22H27Cl3N2O7
